US04528287
1-Ethyl-7-(4-ethyl-3-methyl-1-piperazinyl)-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
A solution of 1.00 g of 1-ethyl-6-fluoro-1,4-dihydro-7-(3-methyl-1-piperazinyl)-4-oxoquinoline-3-carboxylic acid hydrochloride, 1.29 g of ethyl iodide and 1.09 g of triethylamine in 20 ml of N,N-dimethylformamide was heated at 70° to 80° C. for 1.5 hours. The solvent of the reaction mixture was evaporated and the residue was acidified with 50% aqueous acetic acid. The solution was neutralized with 20% aqueous sodium hydroxide and the precipitate was filtered. The precipitate was chromatographed on silica gel using chloroform-methanol (9:1) as eluent to give 0.47 g of the title compound as colorless crystalls, which was recrystallized from a mixture of chloroform and methanol as colorless needles, M.p. 203°-205° C.

reactant | 1-ethyl-6-fluoro-1,4-dihydro-7-(3-methyl-1-piperazinyl)-4-oxoquinoline-3-carboxylic acid hydrochloride | 1.00 g | Cl.C(C)N1C=C(C(C2=CC(=C(C=C12)N1CC(NCC1)C)F)=O)C(=O)O
reactant | ethyl iodide | 1.29 g | C(C)I | C2H5I
reactant | triethylamine | 1.09 g | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-Ethyl-7-(4-ethyl-3-methyl-1-piperazinyl)-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.47 g | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CC(N(CC1)CC)C)F)=O)C(=O)O | C19H24FN3O3
